US07820804B2
4-(2-Ethoxycarbonyl-4-methyl-3-oxo-pent-1-enyl)benzoic acid (E/Z isomer mixture) (44)
29.0 g of ethyl isobutyrylacetate and 33.0 g of 4-carboxybenzaldehyde are heated with a water trap for 6 h. The reaction solution is concentrated, taken up in ethyl acetate and extracted with 20% strength ammonium chloride solution and saturated sodium chloride solution. The organic phase is dried over magnesium sulfate, concentrated and directly reacted further to 45. 50.0 g of an oil are obtained. C16H18O5 (290.3): MS (ESI+): 291.1 (M+H)+, tR=1.42 min (Gradient 2).

reactant | ethyl isobutyrylacetate | 29.0 g | C(C(C)C)(=O)CC(=O)OCC | C8H14O3
reactant | 4-carboxybenzaldehyde | 33.0 g | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
product | 4-(2-Ethoxycarbonyl-4-methyl-3-oxo-pent-1-enyl)benzoic acid | 50.0 g | C(C)OC(=O)C(=CC1=CC=C(C(=O)O)C=C1)C(C(C)C)=O | C16H18O5
